US08580836B2
Into a solution composed of 0.15 g of (R)-1,1,3-trimethyl-4-aminoindane (optical purity: 99% ee), 0.13 g of triethylamine, 5 mg of 4-dimethylaminopyridine and 1 mL of THF, a solution of 0.18 g of 1-methyl-3-trifluoromethylpyrazole-4-carbonyl chloride in THF was dropped under ice cool. The mixture was stirred at room temperature for 15 minutes, then, to the reaction mixture was added ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium hydrogen carbonate aqueous solution and saturated saline sequentially, then, dried over magnesium sulfate and concentrated under reduced pressure. The resultant residue was subjected to silica gel column chromatography to obtain 0.18 g of (R)-(−)-N-(1,1,3-trimethylindan-4-yl)-1-methyl-3-trifluoromethylpyrazole-4-carboxamide (hereinafter, referred to as present carboxamide compound (1)) (optical purity: 99% ee).

reactant | (R)-1,1,3-trimethyl-4-aminoindane | 0.15 g | CC1(C[C@H](C2=C(C=CC=C12)N)C)C | C12H17N
reactant | triethylamine | 0.13 g | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-3-trifluoromethylpyrazole-4-carbonyl chloride | 0.18 g | CN1N=C(C(=C1)C(=O)Cl)C(F)(F)F | C6H4ClF3N2O
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (R)-(−)-N-(1,1,3-trimethylindan-4-yl)-1-methyl-3-trifluoromethylpyrazole-4-carboxamide | 0.18 g | CC1(C[C@H](C2=C(C=CC=C12)NC(=O)C=1C(=NN(C1)C)C(F)(F)F)C)C | C18H20F3N3O
